US03950406
Stereoselective Hydrolysis of Racemic 4-benzoyloxy-1-octyne by Rhizopus arrhizus
From fractions 13-20 is obtained 75 mg. of colorless oil, identical to 4-hydroxy-1-octyne, [α]D25 =-17 ± 1.0 °(C=0.77, ethyl acetate). This compound has the (R)-configuration.

reactant | 4-hydroxy-1-octyne | OC(CC#C)CCCC | C8H14O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Racemic 4-benzoyloxy-1-octyne | C(C1=CC=CC=C1)(=O)OC(CC#C)CCCC | C15H18O2
